US06583135B2
tert-Butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.533 g, 1.61 mmol), p-chlorophenol (0.224 g, 1.74 mmol, 1.08 equiv.) and triphenylphosphine (0.445 g, 1.70 mmol, 1.05 equiv.) was dissolved in THF (10 mL) and stirred at rt under N2. Diethyl azodicarboxylate (0.30 mL, 0.337 g, 1.93 mmol, 1.2 equiv.) was added, and the reaction mixture was stirred for 2.5 h. The reaction mixture was concentrated to give crude product (1.85 g), which was chromatographed (SiO2 175 g, eluted with 4:1 hexane:EtOAc) to give tert-butyl 6-[2-(4-chlorophenoxy)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.622 g) in 88% yield. 1H NMR (300 MHz, CD3OD) δ 1.48, 2.96-3.03, 3.05-3.14, 3.63-3.78, 4.15, 4.48, 6.70, 7.11, 7.15-7.20, 7.17, 7.27-7.31, 7.46-7.51; MS (ESI+) for C25H29ClN2O3 m/z 440.9 (M+H)+.

reactant | tert-Butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 1.61 mmol, 0.533 g | OCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H26N2O3
reactant | p-chlorophenol | 1.74 mmol, 0.224 g, 1.08 equiv. | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | triphenylphosphine | 1.70 mmol, 0.445 g, 1.05 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 1.93 mmol, 0.30 mL, 0.337 g, 1.2 equiv. | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 6-[2-(4-chlorophenoxy)ethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.622 g, 88% yield | ClC1=CC=C(OCCN2C3=C(C=4C=CC=CC24)CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C25H29ClN2O3
